US05962458
Methyl chloroformate (6.8ml, 88mmol) was added over 30 minutes to a solution of 4-fluoro-2-methylphenol (10 g, 79mmol) in 6% aqueous sodium hydroxide solution at 0° C. The mixture was stirred for 2 hours, then extracted with ethyl acetate (100 ml). The ethyl acetate extract was washed with water (100 ml) and dried (MgSO4) and the solvent removed by evaporation to give 4-fluoro-2-methylphenyl methyl carbonate (11.4 g, 78%) as an oil. 1H NMR Spectrum: (DMSOd6) 2.14(s, 3H); 3.81(s, 3H); 7.05(m, 1H); 7.1-7.25(m, 2 H) A mixture of concentrated nitric acid (6 ml) and concentrated sulphuric acid (6 ml) was added slowly to a solution of 4-fluoro-2-methylphenyl methyl carbonate (11.34 g, 62 mmol) in concentrated sulphuric acid (6 ml) such that the temperature of the reaction mixture was kept below 50° C. The mixture was stirred for 2 hours, then ice/water was added and the precipitated product collected by filtration. The crude product was purified by chromatography on silica eluting with methylene chloride/hexane progressing through increasingly polar mixtures to methanol/methylene chloride (1/19) to give 4-fluoro-2-methyl-5-nitrophenol (2.5 g, 22%) as a solid.

reactant | nitric acid | 6 ml | [N+](=O)(O)[O-] | HNO3
reactant | 4-fluoro-2-methylphenyl methyl carbonate | 62 mmol, 11.34 g | C(OC1=C(C=C(C=C1)F)C)(OC)=O | C9H9FO3
solvent | sulphuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
product | 4-fluoro-2-methyl-5-nitrophenol | 2.5 g, 22% | FC1=CC(=C(C=C1[N+](=O)[O-])O)C | C7H6FNO3
